US05034530
3-(3-methyl-1,2,4-oxadiazol-5-yl)-imidazo[1,5-a]quinoxaline.
M.p. 269°-270° C., from ethyl imidazo[1,5-a]quinoxaline-3-carboxylate and acetamide oxime. (Compound 11)

reactant | ethyl imidazo[1,5-a]quinoxaline-3-carboxylate | C1=NC(=C2N1C1=CC=CC=C1N=C2)C(=O)OCC | C13H11N3O2
reactant | acetamide oxime | C(C)(N)=NO | C2H6N2O
product | 3-(3-methyl-1,2,4-oxadiazol-5-yl)-imidazo[1,5-a]quinoxaline | CC1=NOC(=N1)C=1N=CN2C1C=NC1=CC=CC=C21 | C13H9N5O
